US08357705B2
(R)-tert-butyl-1-amino-3-(1H-Indol-3-yl)-1-thioxopropan-2-yl carbamate
A solution of (R)-tert-butyl-1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-yl carbamate (6.80 g, 22.4 mmol) in anhydrous dimethoxyethane (100 mL) was mixed in portions with sodium hydrogencarbonate (7.14 g, 85.1 mmol) and diphosphorus pentasulphide (10.2 g, 44.8 mmol) and stirred overnight at room temperature. The reaction mixture was concentrated to low volume in a vacuum, the residue taken up in ethyl acetate (100 mL) and washed with water and saturated sodium hydrogencarbonate solution (3×50 mL each). The organic phase was dried with sodium sulphate and concentrated to low volume in a vacuum. The raw product was taken up in diethyl ether/cyclohexane (50 mL each) and concentrated to low volume again. During this, the product separated out as a white solid, which was filtered off.

reactant | (R)-tert-butyl-1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-yl carbamate | 22.4 mmol, 6.80 g | C(N)(O[C@@H](C(=O)N)C(C1=CNC2=CC=CC=C12)C(C)(C)C)=O | C16H21N3O3
reactant | sodium hydrogencarbonate | 85.1 mmol, 7.14 g | C(O)([O-])=O.[Na+]
reactant | diphosphorus pentasulphide | 44.8 mmol, 10.2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
product | (R)-tert-butyl-1-amino-3-(1H-Indol-3-yl)-1-thioxopropan-2-yl carbamate | C(N)(O[C@@H](C(=S)N)C(C1=CNC2=CC=CC=C12)C(C)(C)C)=O | C16H21N3O2S
